US08735387B2
(b) 2-Chloro-5-fluoro-N-(4,6-dihydroxy-2-methyl-pyrimidin-5-yl)-benzamide
1.5 equivalents of sodium methoxide (30% in methanol) were added to a suspension of 13.4 g of acetamidine hydrochloride in 150 ml of ethanol. The precipitate was filtered off and washed with 100 ml of ethanol. Additional 1.5 equivalents of sodium methoxide (30% in methanol) were added to the filtrate. Then a solution of 39.3 g of 2-(2-chloro-5-fluoro-benzoylamino)malonic acid diethyl ester in 100 ml of ethanol was added dropwise. The reaction mixture was stirred at 60° C. for 2 h. After cooling to 0° C. for 30 min, the precipitate was filtered off with suction, washed with 100 ml of a solution of hydrogen chloride in isopropanol and dried to give 35.7 g of the title compound.

reactant | sodium methoxide | 1.5 equivalents | C[O-].[Na+]
reactant | acetamidine hydrochloride | 13.4 g | Cl.C(C)(=N)N
reactant | sodium methoxide | 1.5 equivalents | C[O-].[Na+]
reactant | 2-(2-chloro-5-fluoro-benzoylamino)malonic acid diethyl ester | 39.3 g | C(C)OC(C(C(=O)OCC)NC(C1=C(C=CC(=C1)F)Cl)=O)=O | C14H15ClFNO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Chloro-5-fluoro-N-(4,6-dihydroxy-2-methyl-pyrimidin-5-yl)-benzamide | 35.7 g | ClC1=C(C(=O)NC=2C(=NC(=NC2O)C)O)C=C(C=C1)F | C12H9ClFN3O3
